US05106869
6-Methoxy-caproic acid (6.17 g) was dissolved in dry methanol (90 ml) containing hydrogen chloride (catalytic amount) and held overnight at room temperature. The solvent was distilled off from the reaction solution under reduced pressure to give methyl 6-methoxy-caproate. Yield; 5.68 g.

reactant | 6-Methoxy-caproic acid | 6.17 g | COCCCCCC(=O)O | C7H14O3
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | 90 ml | CO | CH4O
product | methyl 6-methoxy-caproate | COCCCCCC(=O)OC | C8H16O3
